US07820664B2
Step C: 4-(4-Bromo-2-fluoro-phenylamino)-6-chloro-pyridazine-3-carboxylic acid tert-butyl ester:
To the stirred solution of 4-(4-bromo-2-fluoro-phenylamino)-6-chloro-pyridazine-3-carboxylic acid (516 gm, 1.49 mmol) in THF (10 ml) under argon at room temperature is added a solution of 2-tert-butyl-1,3-diisopropylisourea (1.49 g, 7.45 mmol) in THF (1.0 ml). The resulted mixture is refluxed for 6 hours. The reaction mixture is then cooled to room temperature and diluted with ethyl acetate. The organic layer is washed with 10% K2CO3 (20 ml×2) and saturated NaCl (30 ml×3), dried over Na2SO4 and concentrated in vacuum. The residue is dissolved in 30 ml of dichloromethane and the resulting white solid (urea byproduct) is filtered out. The filtrate is concentrated under reduced pressure. The residue is purified by flash column chromatography to provide the desired product.

reactant | 4-(4-bromo-2-fluoro-phenylamino)-6-chloro-pyridazine-3-carboxylic acid | 1.49 mmol, 516 gm | BrC1=CC(=C(C=C1)NC1=C(N=NC(=C1)Cl)C(=O)O)F | C11H6BrClFN3O2
reactant | 2-tert-butyl-1,3-diisopropylisourea | 7.45 mmol, 1.49 g | C(C)(C)(C)OC(NC(C)C)=NC(C)C | C11H24N2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Bromo-2-fluoro-phenylamino)-6-chloro-pyridazine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1N=NC(=CC1NC1=C(C=C(C=C1)Br)F)Cl | C15H14BrClFN3O2
